US04509970
Methyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate (1 g) in 20 ml of 6N hydrochloric acid is heated under reflux overnight. The solution is then poured into water and extracted with methylene chloride. The combined solvent extracts are dried over magnesium sulfate and the solvent is then evaporated off to give P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinic acid.

reactant | Methyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate | 1 g | C(C)P(OC)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C16H14ClF3NO5P
reactant | water | O | H2O
solvent | hydrochloric acid | 6N, 20 ml | Cl | ClH
product | P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinic acid | C(C)P(O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C15H12ClF3NO5P
